US04695573
9-Benzylamino-6-trifluoromethyl-1,2,3,4-tetrahydroacridin-1-ol
To a cooled solution of 3.5 g of 9-benzylamino-3,4-dihydro-6-trifluoromethylacridin-1(2H)-one in 60 ml of tetrahydrofuran was added 5 ml of 1M solution of lithium aluminum hydride in tetrahydrofuran. This was stirred for 1 hour at ice temperature.

reactant | 9-benzylamino-3,4-dihydro-6-trifluoromethylacridin-1(2H)-one | 3.5 g | C(C1=CC=CC=C1)NC=1C2=CC=C(C=C2N=C2CCCC(C12)=O)C(F)(F)F | C21H17F3N2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 9-Benzylamino-6-trifluoromethyl-1,2,3,4-tetrahydroacridin-1-ol | C(C1=CC=CC=C1)NC=1C2=CC=C(C=C2N=C2CCCC(C12)O)C(F)(F)F | C21H19F3N2O
